US06566377B2
2-[4-(2-Phenyl-thiazol-4-yl)-phenyl]-ethylamine
In a round-bottomed flask, N-{2-[4-(2-phenyl-thiazol-4-yl)-phenyl]-ethyl}-acetamide (838 mg, 2.60 mmol) was added to 5.0 ml of concentrated HCl and the resulting solution was heated to about 120° C. for about sixteen hours. The solution was then cooled to about 0° C., brought to pH 12 with 5M sodium hydroxide, and extracted with four portions of methylene chloride. The combined organic extracts were then washed with brine, dried over magnesium sulfate, and concentrated in vacua. The crude material was purified by column chromatography (silica gel; methylene chloride to 20% methanol/methylene chloride) to afford the product (617 mg, 85% yield). LRMS ([M+H]+)=281.2.

reactant | N-{2-[4-(2-phenyl-thiazol-4-yl)-phenyl]-ethyl}-acetamide | 2.60 mmol, 838 mg | C1(=CC=CC=C1)C=1SC=C(N1)C1=CC=C(C=C1)CCNC(C)=O | C19H18N2OS
reactant | HCl | 5.0 ml | Cl | ClH
reactant | sodium hydroxide | 5M | [OH-].[Na+]
product | 2-[4-(2-Phenyl-thiazol-4-yl)-phenyl]-ethylamine | 617 mg, 85% yield | C1(=CC=CC=C1)C=1SC=C(N1)C1=CC=C(C=C1)CCN | C17H16N2S
